US09079866B2
Step A: tert-Butyl (1-((3′-fluoro-4′-(1H-pyrrolo[2,3-b]pyridin-5-yl)-[1,1′-biphenyl]-2-yl)-sulfonyl)piperidin-4-yl)carbamate
The title compound was prepared using methods analogous to those described in Example 376 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine and tert-butyl (1-((2-bromophenyl)sulfonyl)piperidin-4-yl)carbamate. MS (ESI): mass calcd. for C28H30FN5O4S, 551.20; m/z found, 552.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 9.04 (s, 1H), 8.81 (d, J=2.4, 1H), 8.18-8.04 (m, 2H), 7.69-7.59 (m, 2H), 7.60-7.48 (m, 1H), 7.48-7.30 (m, 4H), 6.85 (dd, J=3.7, 1.9, 1H), 4.44 (d, J=8.2, 1H), 3.79 (d, J=13.2, 1H), 3.49-3.27 (m, 3H), 2.91 (t, J=11.7, 1H), 2.47 (t, J=12.2, 2H), 1.98 (d, J=13.4, 1H), 1.79 (d, J=11.8, 2H), 1.42 (d, J=9.5, 12H), 1.31-1.10 (m, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=C2C(=NC1)NC=C2 | C19H20BFN2O2
reactant | tert-butyl (1-((2-bromophenyl)sulfonyl)piperidin-4-yl)carbamate | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)NC(OC(C)(C)C)=O | C16H23BrN2O4S
product | tert-Butyl (1-((3′-fluoro-4′-(1H-pyrrolo[2,3-b]pyridin-5-yl)-[1,1′-biphenyl]-2-yl)-sulfonyl)piperidin-4-yl)carbamate | FC=1C=C(C=CC1C=1C=C2C(=NC1)NC=C2)C2=C(C=CC=C2)S(=O)(=O)N2CCC(CC2)NC(OC(C)(C)C)=O | C29H31FN4O4S
